US07109192B2
1e) 2-mercapto-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
4.99 g (28.0 mmol) of N,N′-thiocarbonyldiimidazole were added to a solution of 4.4 g (16.5 mmol) of 4,5-diamino-2-naphthalen-1-ylmethyl-2H-pyridazin-3-one in 100 ml of tetrahydrofuran and stirred overnight at ambient temperature. Then the mixture was concentrated by evaporation in vacuo, the residue was combined with approx. 30 ml of water, made weakly acidic with hydrochloric acid, the product precipitated was suction filtered, washed with water and dried.

reactant | N,N′-thiocarbonyldiimidazole | 28.0 mmol, 4.99 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | 4,5-diamino-2-naphthalen-1-ylmethyl-2H-pyridazin-3-one | 16.5 mmol, 4.4 g | NC=1C(N(N=CC1N)CC1=CC=CC2=CC=CC=C12)=O | C15H14N4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-mercapto-5-(naphthalen-1-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | SC=1NC2=C(C=NN(C2=O)CC2=CC=CC3=CC=CC=C23)N1 | C16H12N4OS
